US06506755B2
5-[(2,5-Bis-(4-chlorophenylmethoxy)phenyl)methylene]-4-oxo-2-thioxo-3-thiazolidineacetic Acid
125 mg (0.323 mmol) of 2,5-bis-(4-chlorophenyl-methoxy)benzaldehyde, 68.3 mg (0.355 mmol) of rhodanine-3-acetic acid, 18 mg (0.125 mmol) of piperidine acetate and 10 ml of toluene were heated on a water separator under a nitrogen atmosphere for 4 hours. Subsequently, the reaction mixture was evaporated, the residue was taken up in ethyl acetate, washed several times with water, dried and again evaporated. The residue was triturated with diethyl ether and filtered off under suction: 125 mg (69%) of the title compound; 1HNMR (DMSO-d6, 250 MHz) δ 7.92 (s, 1H), 7.49 (m, 8H), 7.20 (m, 2H), 7.00 (m, 1H), 5.22 (s, 2H), 5.18 (s, 2H), 4.57 (s, 2H); TLC (toluene/methyl ethyl ketone/glacial acetic acid (72:20:8)): Rf=0.51.

reactant | 2,5-bis-(4-chlorophenyl-methoxy)benzaldehyde | 0.323 mmol, 125 mg | ClC1=CC=C(C=C1)COC1=C(C=O)C=C(C=C1)OCC1=CC=C(C=C1)Cl | C21H16Cl2O3
reactant | rhodanine-3-acetic acid | 0.355 mmol, 68.3 mg | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | piperidine acetate | 0.125 mmol, 18 mg | C(C)(=O)O.N1CCCCC1
reactant | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 5-[(2,5-Bis-(4-chlorophenylmethoxy)phenyl)methylene]-4-oxo-2-thioxo-3-thiazolidineacetic Acid | ClC1=CC=C(C=C1)COC1=C(C=C(C=C1)OCC1=CC=C(C=C1)Cl)C=C1C(N(C(S1)=S)CC(=O)O)=O | C26H19Cl2NO5S2
